US08071766B2
To a solution of 2-(cyclopent-3-enyloxy)isoindoline-1,3-dione (736 mg, 3.2 mmol) in dioxane —H2O (5.0 mL, 4:1) was added NMO (421 mg, 3.60 mmol) and OsO4 (1.0 mL mg, 0.32 mmol, 2.5 wt % in H2O) and the reaction mixture was stirred for 24 h at rt. Quenched with 10% aqueous Na2S2O3 solution and extracted with ethyl acetate. The combined organic layers washed with brine and dried over anhydrous Na2SO4. Filtered and concentrated to provide yellow oil, which was purified by flash chromatography (80% EtOAc-hexane) to yield 2-((3R,4S)-3,4-dihydroxycyclopentyloxy)isoindoline-1,3-dione (650 mg, 77%) as light yellow oil. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 1.94-2.12 (m, 2H) 2.14-2.35 (m, 2H) 4.22-4.88 (m, 2H) 4.75-5.11 (m, 1H) 7.67-7.78 (m, 2H) 7.79-7.86 (m, 2H). MS (ES) [M+H] calculated for C13H14NO5, 264.08. found 264.20.

reactant | 2-(cyclopent-3-enyloxy)isoindoline-1,3-dione | 3.2 mmol, 736 mg | C1(CC=CC1)ON1C(C2=CC=CC=C2C1=O)=O | C13H11NO3
reactant | NMO | 3.60 mmol, 421 mg | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | dioxane H2O | 5.0 mL | O1CCOCC1.O
catalyst | OsO4 | 0.32 mmol, 1.0 mL | O=[Os](=O)(=O)=O
product | 2-((3R,4S)-3,4-dihydroxycyclopentyloxy)isoindoline-1,3-dione | 650 mg, 77% | O[C@@H]1CC(C[C@@H]1O)ON1C(C2=CC=CC=C2C1=O)=O | C13H13NO5
